US05859011
B. 3-Benzyl-9-piperazinyl-3-azabicyclo[3.3.1]nonane
A mixture of 3-benzyl-3-azabicyclo[3.3.1]nonan-9-one (0.72 g, 3.14 mmol), methanol (25 ml), piperazine(2.71 g, 31.4 mmol), several 3A molecular sieves, and NaBH3CN (0.39 g, 6.28 mmol) was refluxed for 60 hr, cooled, and concentrated. The residue was taken up in 1N HCl (50 ml), washed with ethyl acetate, the pH adjusted to 12 with 1N NaOH aqueous solution, and extracted with dichloromethane. The extract was dried over Na2SO4 and concentrated to afford 0.72 g (72% crude) of an oil, which was used directly in the following step.

reactant | 3-benzyl-3-azabicyclo[3.3.1]nonan-9-one | 3.14 mmol, 0.72 g | C(C1=CC=CC=C1)N1CC2CCCC(C1)C2=O | C15H19NO
reactant | piperazine | 31.4 mmol, 2.71 g | N1CCNCC1 | C4H10N2
reactant | NaBH3CN | 6.28 mmol, 0.39 g | [BH3-]C#N.[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 3-Benzyl-9-piperazinyl-3-azabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CCCC(C1)C2N2CCNCC2 | C19H29N3
